US08026244B2
(a) 6-Amino-1-(pyridin-3-ylmethyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one
The title compound was prepared in accordance with the general method described in Example 1(b) using N-(pyridin-3-ylmethyl)thiourea (Beaudegnies, R., Wendeborm, S., Heterocycles, 2003, 11, 2417-2424) (1.19 g, 7.12 mmol) and ethyl cyanoacetate (0.97 g, 8.54 mmol), giving the title compound (1.38 g, 83%) as a solid.

reactant | N-(pyridin-3-ylmethyl)thiourea | 7.12 mmol, 1.19 g | N1=CC(=CC=C1)CNC(=S)N | C7H9N3S
reactant | ethyl cyanoacetate | 8.54 mmol, 0.97 g | C(#N)CC(=O)OCC | C5H7NO2
product | 6-Amino-1-(pyridin-3-ylmethyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 1.38 g, 83% | NC1=CC(NC(N1CC=1C=NC=CC1)=S)=O | C10H10N4OS
